US08871790B2
Compound 40.1. tert-Butyl 4-(4-cyanophenyl)-4-hydroxyazepane-1-carboxylate
A solution of 4-iodobenzonitrile (510 mg, 2.22 mmol, 1.1 equiv) in THF (3 mL) was added to a 10 mL round-bottom flask and the system purged with nitrogen. The mixture was cooled to −40° C. then isopropylmagnesium chloride (1.16 mL of a 2.0 M soln in THF, 2.32 mmol, 1.15 equiv) was added dropwise over 20 minutes. The resulting mixture was stirred at −40° C. for 2 hours then tert-butyl 4-oxoazepane-1-carboxylate (431 mg, 2.02 mmol, 1.0 equiv) in THF (0.5 mL) was added dropwise over 15 minutes. The resulting mixture was stirred at −40° C. for 1 hour then diluted into ethyl acetate (15 mL) and washed with 0.2 M HCl (10 mL), 0.1 M HCl (5 mL), saturated sodium bicarbonate (5 mL) then brine (5 mL). The organics were dried (Na2SO4), filtered and evaporated. To remove remaining ketone and aldol by-product, the residue was dissolved in acetonitrile (3 mL) then hydrazine (0.2 mL) was added and heated at 60° C. for 4 hours. The mixture was diluted with EtOAc (20 mL) and washed with water (20 mL), followed by 0.5 M phosphoric acid (3×20 mL), saturated sodium bicarbonate (10 mL) and brine (10 mL). The organics were dried (Na2SO4), filtered and evaporated. The residue was purified by silica column chromatography (hexanes/ethyl acetate) to obtain the title compound as a pink oil which solidified upon standing (303 mg, 47%). m/z (ES+) 317 (M+H)+.

reactant | 4-iodobenzonitrile | 2.22 mmol, 510 mg, 1.1 equiv | IC1=CC=C(C#N)C=C1 | C7H4IN
reactant | tert-butyl 4-oxoazepane-1-carboxylate | 2.02 mmol, 431 mg, 1.0 equiv | O=C1CCN(CCC1)C(=O)OC(C)(C)C | C11H19NO3
reactant | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | tert-Butyl 4-(4-cyanophenyl)-4-hydroxyazepane-1-carboxylate | C(#N)C1=CC=C(C=C1)C1(CCN(CCC1)C(=O)OC(C)(C)C)O | C18H24N2O3
